US05519134
Benzyl 3,6,9,12-Tetraoxatridecanoate.
Triethyleneglycol monomethyl ether (10 mmol) and benzyl bromoacetate (11 mmol) are added to a suspension of anhydrous K2CO3 (15 mmol) in 50 ml anhydrous DMF. The suspension is stirred at room temperature overnight. Water is added and the emulsion is extracted with ethyl acetate (3×200 ml), washed with water, brine, and dried with MgSO4. The solvent is evaporated and the residual oil purified by flash chromatography to give the title compound.

reactant | Triethyleneglycol monomethyl ether | 10 mmol | COCCOCCOCCO | C7H16O4
reactant | benzyl bromoacetate | 11 mmol | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | K2CO3 | 15 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | Benzyl 3,6,9,12-Tetraoxatridecanoate | C(COCCOCCOCCOC)(=O)OCC1=CC=CC=C1 | C16H24O6
